US07790728B2
5-(3-Fluorophenyl)-6-pyridin-4-yl[1,2,5]thiadiazolo[3,4-b]pyrazine
A mixture of 1-(3-fluorophenyl)-2-pyridin-4-ylethane-1,2-dione (1.5 g, 6.5 mmol) and 1,2,5-thiadiazole-3,4-diamine (1.1 g, 9.8 mmol) in AcOH (30 mL) was stirred and heated at reflux for 1 h. The mixture was cooled to room temperature and the solvent was removed under reduced pressure. The residue was partitioned between ethyl acetate and a solution of NaHCO3 4%. The organic phase was dried (MgSO4) and evaporated to dryness to give the title compound as a dark oil (1.7 g, 82%).

reactant | 1-(3-fluorophenyl)-2-pyridin-4-ylethane-1,2-dione | 6.5 mmol, 1.5 g | FC=1C=C(C=CC1)C(C(=O)C1=CC=NC=C1)=O | C13H8FNO2
reactant | 1,2,5-thiadiazole-3,4-diamine | 9.8 mmol, 1.1 g | S1N=C(C(=N1)N)N | C2H4N4S
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
product | 5-(3-Fluorophenyl)-6-pyridin-4-yl[1,2,5]thiadiazolo[3,4-b]pyrazine | 1.7 g, 82% | FC=1C=C(C=CC1)C1=NC=2C(N=C1C1=CC=NC=C1)=NSN2 | C15H8FN5S
